Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[c:3]1[cH:4][cH:5][n:6][o:7]1.[CH3:8][NH:9][CH2:10][c:11]1[cH:12][cH:13][cH:14][c:15](-[c:16]2[cH:17][cH:18][c:19]([CH2:20][CH:21]3[S:22][C:23](=[O:24])[NH:25][C:26]3=[O:27])[cH:28][cH:29]2)[cH:30]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][n:6][o:7]1)[N:9]([CH3:8])[CH2:10][c:11]1[cH:12][cH:13][cH:14][c:15](-[c:16]2[cH:17][cH:18][c:19]([CH2:20][CH:21]3[S:22][C:23](=[O:24])[NH:25][C:26]3=[O:27])[cH:28][cH:29]2)[cH:30]1,[CH3:8][NH:9][CH2:10][c:11]1[cH:12][cH:13][cH:14][c:15](-[c:16]2[cH:17][cH:18][c:19]([CH2:20][CH:21]3[S:22][C:23](=[O:24])[NH:25][C:26]3=[O:27])[cH:28][cH:29]2)[cH:30]1.[OH:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][n:6][o:7]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][n:6][o:7]1)[N:9]([CH3:8])[CH2:10][c:11]1[cH:12][cH:13][cH:14][c:15](-[c:16]2[cH:17][cH:18][c:19]([CH2:20][CH:21]3[S:22][C:23](=[O:24])[NH:25][C:26]3=[O:27])[cH:28][cH:29]2)[cH:30]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (9, 1), ([1, 2], 2), (303, 9.1), ([9.1, 9], 9), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[O:1]=[C:2]([CH:3]=[CH:4][c:5]1[cH:10][cH:9][cH:8][cH:7][cH:6]1)[c:11]1[cH:12][c:13]([Cl:14])[cH:15][cH:16][c:17]1[OH:18]>>[O:1]=[C:2]1[CH2:3][CH:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[O:18][c:17]2[c:11]1[cH:12][c:13]([Cl:14])[cH:15][cH:16]2,[O:1]=[C:2]([CH:3]=[CH:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[c:11]1[cH:12][c:13]([Cl:14])[cH:15][cH:16][c:17]1[OH:18].[Na+].[OH1-:301]>>[O:1]=[C:2]1[CH2:3][CH:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[O:18][c:17]2[c:11]1[cH:12][c:13]([Cl:14])[cH:15][cH:16]2,Michael_addition,"[(301, 18.1), ([18.1, 18], 18), (18, 4), ([4, 3], [3, 2]), ([2, 1], 1), (1, [1, 2]), ([2, 3], 301.1), ([301.1, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][CH:2]([C:3]#[N:4])[N:5]1[CH2:6][CH2:7][CH:8]([C:9](=[O:10])[c:11]2[cH:12][cH:13][c:14]([F:15])[cH:16][cH:17]2)[CH2:18][CH2:19]1>>[CH3:1][CH:2]([CH2:3][NH2:4])[N:5]1[CH2:6][CH2:7][CH:8]([C:9](=[O:10])[c:11]2[cH:12][cH:13][c:14]([F:15])[cH:16][cH:17]2)[CH2:18][CH2:19]1,[CH3:1][CH:2]([C:3]#[N:4])[N:5]1[CH2:6][CH2:7][CH:8]([C:9](=[O:10])[c:11]2[cH:12][cH:13][c:14]([F:15])[cH:16][cH:17]2)[CH2:18][CH2:19]1.[Li+:301].[AlH4-:302].[OH2:303].[OH2:304]>>[CH3:1][CH:2]([CH2:3][NH2:4])[N:5]1[CH2:6][CH2:7][CH:8]([C:9](=[O:10])[c:11]2[cH:12][cH:13][c:14]([F:15])[cH:16][cH:17]2)[CH2:18][CH2:19]1,nitrile_reduction,"[([302, 302.1], 3), ([3, 4], 301), ([302, 302.1], 3), ([3, 4], 302), ([301, 4], 303.1), ([303.1, 303], 303), ([302, 4], 304.1), ([304.1, 304], 304)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([CH2:2][c:3]1[cH:4][cH:5][cH:6][c:7]([O:8][CH3:9])[cH:10]1)=[O:11].[NH2:12][C:13]1=[c:14]2[cH:15][cH:16][o:17][c:18]2=[N:19][CH2:20][N:21]1[c:22]1[cH:23][cH:24][c:25]([NH2:26])[cH:27][cH:28]1>>[C:1]([CH2:2][c:3]1[cH:4][cH:5][cH:6][c:7]([O:8][CH3:9])[cH:10]1)(=[O:11])[NH:26][c:25]1[cH:24][cH:23][c:22]([N:21]2[C:13]([NH2:12])=[c:14]3[cH:15][cH:16][o:17][c:18]3=[N:19][CH2:20]2)[cH:28][cH:27]1,[NH2:12][C:13]1=[c:14]2[cH:15][cH:16][o:17][c:18]2=[N:19][CH2:20][N:21]1[c:22]1[cH:23][cH:24][c:25]([NH2:26])[cH:27][cH:28]1.[OH:101][C:1]([CH2:2][c:3]1[cH:4][cH:5][cH:6][c:7]([O:8][CH3:9])[cH:10]1)=[O:11].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH2:2][c:3]1[cH:4][cH:5][cH:6][c:7]([O:8][CH3:9])[cH:10]1)(=[O:11])[NH:26][c:25]1[cH:24][cH:23][c:22]([N:21]2[C:13]([NH2:12])=[c:14]3[cH:15][cH:16][o:17][c:18]3=[N:19][CH2:20]2)[cH:28][cH:27]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (26, 1), ([1, 11], 11), (303, 26.1), ([26.1, 26], 26), (11, [11, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH:1]1[c:2]2[c:3]([cH:4][cH:5][cH:6][cH:7]2)[C:8](=[O:9])[N:10]1[c:11]1[cH:12][cH:13][c:14]2[cH:15][cH:16][c:17]([Cl:18])[n:19][c:20]2[n:21]1.[O:22]=[C:23]1[CH2:24][CH2:25][CH:26]([C:27](=[O:28])[OH:29])[NH:30]1>>[CH:1]1([O:29][C:27]([CH:26]2[CH2:25][CH2:24][C:23](=[O:22])[NH:30]2)=[O:28])[c:2]2[c:3]([cH:4][cH:5][cH:6][cH:7]2)[C:8](=[O:9])[N:10]1[c:11]1[cH:12][cH:13][c:14]2[cH:15][cH:16][c:17]([Cl:18])[n:19][c:20]2[n:21]1,[Cl:101][CH:1]1[c:2]2[c:3]([cH:4][cH:5][cH:6][cH:7]2)[C:8](=[O:9])[N:10]1[c:11]1[cH:12][cH:13][c:14]2[cH:15][cH:16][c:17]([Cl:18])[n:19][c:20]2[n:21]1.[O:22]=[C:23]1[CH2:24][CH2:25][CH:26]([C:27](=[O:28])[OH:29])[NH:30]1>>[CH:1]1([O:29][C:27]([CH:26]2[CH2:25][CH2:24][C:23](=[O:22])[NH:30]2)=[O:28])[c:2]2[c:3]([cH:4][cH:5][cH:6][cH:7]2)[C:8](=[O:9])[N:10]1[c:11]1[cH:12][cH:13][c:14]2[cH:15][cH:16][c:17]([Cl:18])[n:19][c:20]2[n:21]1,SN1,"[([1, 101], 101), (29, 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
